US07572820B2
C. 4-Chloro-2-ethyl-1-{[5-(2-pyridinyl)-1,3,4-oxadiazol-2-yl]methyl}-1H-benzimidazole-5-carbonitrile
(4-Chloro-5-cyano-2-ethyl-1H-benzimidazol-1-yl)acetic acid (0.017 g, 0.065 mmol) and EDCl (0.014 mg, 0.072 mmol) were combined in acetonitrile (3 mL) and stirred at rt for 3 min. 2-Pyridinecarbohydrazide (0.0094 g, 0.068 mmol) was added next and the resulting mixture was stirred for 60 min. To this solution was added THF (THF 3 mL) followed by tosyl chloride (0.015 g, 0.078 mmol) and P-BEMP (0.148 g, 0.325 mmol, 2.2 mmol/g resin load). The reaction vessel was sealed and heated to 100° C. in a microwave for 5 min. The resin was filtered away and washed with CH2Cl2 (×2). The concentrated filtrate was purified (SiO2, 25% EtOAc/hexanes) to afford the title compound (0.004 g): MS (APCl) m/z 365 (M+1).

reactant | (4-Chloro-5-cyano-2-ethyl-1H-benzimidazol-1-yl)acetic acid | 0.065 mmol, 0.017 g | ClC1=C(C=CC=2N(C(=NC21)CC)CC(=O)O)C#N | C12H10ClN3O2
reactant | EDCl | 0.072 mmol, 0.014 mg | CCN=C=NCCCN(C)C.Cl
reactant | 2-Pyridinecarbohydrazide | 0.068 mmol, 0.0094 g | N1=C(C=CC=C1)C(=O)NN | C6H7N3O
reactant | tosyl chloride | 0.078 mmol, 0.015 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 4-Chloro-2-ethyl-1-{[5-(2-pyridinyl)-1,3,4-oxadiazol-2-yl]methyl}-1H-benzimidazole-5-carbonitrile | 0.004 g | ClC1=C(C=CC=2N(C(=NC21)CC)CC=2OC(=NN2)C2=NC=CC=C2)C#N | C18H13ClN6O
